US04785007
To a solution of 8 g of potassium carbonate in 10 cm3 of water, 6 g (0.034 mol) of diethyl cyanomethylphosphonate are added followed by 5 g of 2,4-dichlorobenzaldehyde solubilized in 10 cm3 of anhydrous tetrahydrofuran. The mixture is left stirred for 10 minutes at room temperature and 20 cm3 of water are added. The precipitate formed is washed with water to neutrality (8 times with 20 cm3 of water), and then washed with an ether/hexane mixture. 3.7 g (74%) of trans-2,4-dichlorocinnamonitrile are obtained in the form of white crystals, m.p. 156° C.

reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl cyanomethylphosphonate | 0.034 mol, 6 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 2,4-dichlorobenzaldehyde | 5 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
solvent | water | 10 cm3 | O | H2O
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
solvent | water | 20 cm3 | O | H2O
product | trans-2,4-dichlorocinnamonitrile | 3.7 g, 74% | ClC1=C(/C=C/C#N)C=CC(=C1)Cl | C9H5Cl2N
